US08981104B2
2-Chloro-7,8-dihydroquinolin-5(6H)-one
Under nitrogen, 21.02 g (0.13 mol) of 7,8-dihydroquinoline-2,5(1H,6H)-dione were suspended in 100 ml of acetonitrile (anhydrous, <30 ppm H2O), and 135.28 ml (density 1.46 g/ml, 1.29 mol) of phosphorus oxychloride were added. The yellowish suspension was then heated to 75° C. and stirred at this temperature for 1.25 hours. The yellow clear solution was then cooled to room temperature, and 150 ml of toluene were added. The solution was then concentrated on a rotary evaporator to about 100 ml, and another 150 ml of toluene were added. The solution was then concentrated to dryness on a rotary evaporator. 300 ml of ethyl acetate were then added to the orange oil obtained. Subsequently, the solution was carefully (evolution of gas) added to 500 ml of saturated aqueous sodium bicarbonate solution and stirred for 15 min. The phases were separated and the aqueous phase was extracted with 200 ml of ethyl acetate. The combined organic phases were washed twice with 250 ml of water and once with 100 ml of saturated sodium chloride solution, dried over sodium sulphate, filtered and concentrated to dryness under reduced pressure. This gave 22.58 g (0.12 mmol, 96% of theory) of the target compound as a slightly yellowish solid.

reactant | 7,8-dihydroquinoline-2,5(1H,6H)-dione | 0.13 mol, 21.02 g | N1C(C=CC=2C(CCCC12)=O)=O | C9H9NO2
reactant | phosphorus oxychloride | 1.29 mol, 135.28 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium bicarbonate | 500 ml | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 2-Chloro-7,8-dihydroquinolin-5(6H)-one | ClC1=NC=2CCCC(C2C=C1)=O | C9H8ClNO
